### PR TITLE
[Merged by Bors] - feat: add proof of Jordan-Chevalley-Dunford decomposition

### PR DESCRIPTION
**Pull request by ocfnash**
---

- [x] depends on: #10284

closes https://github.com/leanprover-community/mathlib/issues/4973

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Units.lean [hunk 1]
```diff
@@ -674,6 +674,11 @@ theorem isUnit_of_mul_eq_one [CommMonoid M] (a b : M) (h : a * b = 1) : IsUnit a
 #align is_unit_of_mul_eq_one isUnit_of_mul_eq_one
 #align is_add_unit_of_add_eq_zero isAddUnit_of_add_eq_zero
 
+@[to_additive]
+theorem isUnit_of_mul_eq_one' [CommMonoid M] (a b : M) (h : a * b = 1) : IsUnit b := by
```
Comment (jcommelin) [inline Mathlib/Algebra/Group/Units.lean:678]: I'm hopping back and forth... on the one hand shorter names good, on the other hand primed-names less good...
```suggestion
theorem isUnit_of_mul_eq_one_right [CommMonoid M] (a b : M) (h : a * b = 1) : IsUnit b := by
```

File: Mathlib/LinearAlgebra/JordanChevalley.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+
+The proof given here uses Newton's method and is taken from Chambert-Loir's notes:
+[Algebre](http://webusers.imj-prg.fr/~antoine.chambert-loir/enseignement/2022-23/agreg/algebre.pdf)
+
+## Main definitions / results:
+
+ * `Module.End.exists_isNilpotent_isSemisimple`: an endomorphism of a finite-dimensional vector
+   space over a perfect field may be written as a sum of nilpotent and semisimple endomorphisms.
+
+## TODO
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/JordanChevalley.lean:29]: Please also add the claim about polynomial expressions.

File: Mathlib/LinearAlgebra/JordanChevalley.lean [hunk 3]
```diff
@@ -0,0 +1,74 @@
...
+
+open Algebra Polynomial
+
+namespace Module.End
+
+variable {K V : Type*} [Field K] [AddCommGroup V] [Module K V] [FiniteDimensional K V] {f : End K V}
+
+theorem exists_isNilpotent_isSemisimple_of_separable_of_dvd_pow {P : K[X]} {n : ℕ}
+    (sep : P.Separable) (nil : minpoly K f ∣ P ^ n) :
+    ∃ s ∈ adjoin K {f}, IsNilpotent (f - s) ∧ s.IsSemisimple := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/JordanChevalley.lean:44]: I think I would prefer a separate variable instead of `f - s`.
The statement would become a bit longer, but when used with `obtain` the `f = N + s` clause can often be deconstructed using `rfl`, and the resulting goal state in applications might be closer to what the user wants.

File: Mathlib/LinearAlgebra/JordanChevalley.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+  refine ⟨s, ⟨mem, ⟨n, ?_⟩, ?_⟩⟩
+  · rw [Subtype.ext_iff] at hn
+    simpa using hn
+  · replace hss : aeval s P = 0 := by rwa [Subtype.ext_iff, coe_aeval_mk_apply] at hss
+    exact isSemisimple_of_squarefree_aeval_eq_zero sep.squarefree hss
+
+/-- **Jordan-Chevalley-Dunford decomposition**: an endomorphism of a finite-dimensional vector space
+over a perfect field may be written as a sum of nilpotent and semisimple endomorphisms. -/
+theorem exists_isNilpotent_isSemisimple [PerfectField K] :
+    ∃ s ∈ adjoin K {f}, IsNilpotent (f - s) ∧ s.IsSemisimple := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/JordanChevalley.lean:69]: Idem.

File: Mathlib/LinearAlgebra/JordanChevalley.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/JordanChevalley.lean:44]: OK done.

What you propose also has the advantage that it saves the user having to prove that nilpotent part is a also a polynomial in `f` (if they want this).

FWIW if / when we add the uniqueness my plan would be to add some API that obviates the need to use these lemmas directly along the lines of:
```lean
def semisimpleComponent [PerfectField K] : End K V := ...

def nilpotentComponent [PerfectField K] : End K V := ...
```

File: Mathlib/Algebra/Group/Units.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Group/Units.lean]: Agreed and done.

File: Mathlib/LinearAlgebra/JordanChevalley.lean (hunk 2 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/JordanChevalley.lean:31]: Aah, good point!

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
